US07851473B2
(1) N-Methyl-N-(4-nitrophenyl)acetamide
To a solution of N-methyl-4-nitroaniline (5.00 g, 32.9 mmol) and pyridine (7.97 ml, 98.6 mmol) in tetrahydrofuran (100 ml) was added acetyl chloride (3.51 ml, 49.4 mmol) with ice-cooling, the mixture was stirred for 3 hours with ice-cooling, the reaction mixture was poured into ice-water and the desired product (2.60 g, 40.7%) as a solid was collected by filtration.

reactant | N-methyl-4-nitroaniline | 32.9 mmol, 5.00 g | CNC1=CC=C(C=C1)[N+](=O)[O-] | C7H8N2O2
reactant | pyridine | 98.6 mmol, 7.97 ml | N1=CC=CC=C1 | C5H5N
reactant | acetyl chloride | 49.4 mmol, 3.51 ml | C(C)(=O)Cl | C2H3ClO
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | N-Methyl-N-(4-nitrophenyl)acetamide | CN(C(C)=O)C1=CC=C(C=C1)[N+](=O)[O-] | C9H10N2O3
